US08440710B2
Step 2: 1-(2-Methoxy-ethyl)-4-oxo-cyclohexanecarboxylic acid ethyl ester
A solution of 1,4-dioxa-spiro[4.5]decane-8-carboxylic acid ethyl ester (39.5 g) in THF (200 mL) was added dropwise over a period of 45 minutes at −5° C. (ice/methanol bath) to a solution of lithiumdiisopropylamide (2M in THF, 184.3 mL) in THF (300 mL). Stirring was continued for 2.5 hours at 0° C. The reaction mixture was cooled to −5° C. and 2-bromoethyl-methylether (34.6 mL) was added dropwise over a period of 30 minutes. Stirring was continued for 12 hours at r.t. The reaction mixture was cooled to 0° C. and aqueous HCl (25%, 300 mL) was added dropwise over a period of 45 minutes to pH 1. Stirring was continued for 2 hours at r.t. The reaction mixture was poured into ice/water and extracted two times with ethyl acetate. The combined organic layers were washed with brine, dried over Na2SO4, filtered and the solvent was evaporated. The residue was purified by flash chromatography (silica gel, gradient of heptane in ethyl acetate) to give the title compound as a yellow liquid (25.2 g, 60%). MS (EI)=288.0 [M+].

reactant | 1,4-dioxa-spiro[4.5]decane-8-carboxylic acid ethyl ester | 39.5 g | C(C)OC(=O)C1CCC2(OCCO2)CC1 | C11H18O4
reactant | lithiumdiisopropylamide | 2M, 184.3 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-bromoethyl-methylether | 34.6 mL | BrCCOC | C3H7BrO
reactant | HCl | 300 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 1-(2-Methoxy-ethyl)-4-oxo-cyclohexanecarboxylic acid ethyl ester | 25.2 g, 60% | C(C)OC(=O)C1(CCC(CC1)=O)CCOC | C12H20O4
